US06747047B2
Step E: Preparation of 2-methyl-4-trifluoromethyl benzoic acid
Potassium hydroxide (15.7 g, 0.28 mole) and 15 mL of water were added as a solution to a stirred, heterogeneous mixture of 2-methyl-4-(trifluoromethyl)benzonitrile (13 g, 70 mmol) and 135 mL of ethylene glycol. The reaction mixture was heated at 120-130° C. for 20 hours and allowed to cool to room temperature. The dark solution was poured into 800 mL of water and filtered through celite. The filtrate was washed with ether and then the aqueous was acidified with concentrated hydrochloric acid. This aqueous phase was extracted three times with ethyl acetate, the organic extracts were combined, dried over magnesium sulfate and evaporated under reduced pressure to afford the title compound as a tan solid.

reactant | Potassium hydroxide | 0.28 mole, 15.7 g | [OH-].[K+]
reactant | 2-methyl-4-(trifluoromethyl)benzonitrile | 70 mmol, 13 g | CC1=C(C#N)C=CC(=C1)C(F)(F)F | C9H6F3N
reactant | ethylene glycol | 135 mL | C(CO)O | C2H6O2
solvent | water | 800 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | 2-methyl-4-trifluoromethyl benzoic acid | CC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C9H7F3O2
